US08431733B2
To a solution of (2S,4R)-2-((2S,3S)-1-(cyclopropylamino)-2-hydroxy-1-oxohexan-3-ylcarbamoyl)-4-(7-methoxy-2-(1H-pyrazol-1-yl)quinolin-4-yloxy)pyrrolidinium chloride (6.3 g, 11.2 mmol) in dimethylsulfoxide (20 mL) was added (R)-2-(3-tert-butylureido)-3,3-dimethylbutanoic acid (2.33 g, 10.2 mmol), 2-(1H-7-Azabenzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate (HATU, 4.74 g, 12.1 mmol) followed by diisopropylethylamine (4.95 g, 38.4 mmol), and the reaction mixture was stirred at room temperature for 3 hours under nitrogen atmosphere. Completion of the reaction was monitored by TLC analysis. The reaction mixture was diluted with water and the resulting solid was filtered and dried under reduced pressure to yield 6.3 g (71.6%) of (2S,4R)-1-((S)-2-(3-tert-butylureido)-3,3-dimethylbutanoyl)-N-((2S,3S)-1-(cyclopropylamino)-2-hydroxy-1-oxohexan-3-yl)-4-(7-methoxy-2-(1H-pyrazol-1-yl)quinolin-4-yloxy)pyrrolidine-2-carboxamide (HPLC purity: 99.2% by area; HPLC retention time: 15.06 minutes).

reactant | (2S,4R)-2-((2S,3S)-1-(cyclopropylamino)-2-hydroxy-1-oxohexan-3-ylcarbamoyl)-4-(7-methoxy-2-(1H-pyrazol-1-yl)quinolin-4-yloxy)pyrrolidinium chloride | 11.2 mmol, 6.3 g | [Cl-].C1(CC1)NC([C@H]([C@H](CCC)NC(=O)[C@H]1[NH2+]C[C@@H](C1)OC1=CC(=NC2=CC(=CC=C12)OC)N1N=CC=C1)O)=O
reactant | (R)-2-(3-tert-butylureido)-3,3-dimethylbutanoic acid | 10.2 mmol, 2.33 g | C(C)(C)(C)NC(N[C@@H](C(=O)O)C(C)(C)C)=O | C11H22N2O3
reactant | 2-(1H-7-Azabenzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate | 12.1 mmol, 4.74 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | diisopropylethylamine | 38.4 mmol, 4.95 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dimethylsulfoxide | 20 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | (2S,4R)-1-((S)-2-(3-tert-butylureido)-3,3-dimethylbutanoyl)-N-((2S,3S)-1-(cyclopropylamino)-2-hydroxy-1-oxohexan-3-yl)-4-(7-methoxy-2-(1H-pyrazol-1-yl)quinolin-4-yloxy)pyrrolidine-2-carboxamide | 6.3 g, 71.6% | C(C)(C)(C)NC(N[C@H](C(=O)N1[C@@H](C[C@H](C1)OC1=CC(=NC2=CC(=CC=C12)OC)N1N=CC=C1)C(=O)N[C@H]([C@@H](C(=O)NC1CC1)O)CCC)C(C)(C)C)=O | C38H54N8O7
